US05128351
p-Tetradecyloxybenzoyl chloride
A mixture of 50 g of p-(tetradecyloxy)benzoic acid and 28.46 g of oxalyl chloride in 500 ml of chloroform containing 10 drops of N,N-dimethylformamide is stirred for 18 hours at ambient temperature. The solvent is evaporated and the residue dissolved in ether, filtered and evaporated to give 54 g of the desired product as a white solid.

reactant | p-(tetradecyloxy)benzoic acid | 50 g | C(CCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C21H34O3
reactant | oxalyl chloride | 28.46 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | p-Tetradecyloxybenzoyl chloride | 54 g | C(CCCCCCCCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C21H33ClO2
